### PR TITLE
feat(FieldTheory): relrank lemma about sup

### PR DESCRIPTION
**Pull request by wwylele**
The main lemma I want is `(A ⊔ C).relrank (B ⊔ C) ≤ A.relrank B`. Added some trivial lemma along the way.

---

AI usage disclosure: this was originally drafted by Aristotle, then cleaned up by me.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Relrank.lean [hunk 1]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+  rw [relrank_eq_rank_of_le (le_sup_left : A ≤ A ⊔ B), ← inf_relrank_right A B,
+    relrank_eq_rank_of_le hAinfB, ← hadj]
+  exact IntermediateField.adjoin_rank_le_of_isAlgebraic_right (E := A) (extendScalars hAinfB)
+
+variable {A B} in
+theorem relfinrank_sup_left_le (h : A.relfinrank B ≠ 0) :
+    A.relfinrank (A ⊔ B) ≤ A.relfinrank B := by
+  rw [relfinrank_ne_zero_iff] at h
+  simp_rw [relfinrank_eq_toNat_relrank]
+  exact Cardinal.toNat_le_toNat (relrank_sup_left_le h) h
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean:311]:
```suggestion
theorem relfinrank_sup_left_le (h : A.relfinrank B ≠ 0) :
    A.relfinrank (A ⊔ B) ≤ A.relfinrank B :=
  have h := (relfinrank_ne_zero_iff _ _).mp h
  Cardinal.toNat_le_toNat (relrank_sup_left_le h) h
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 2]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+  _ ≤ ((A ⊓ B) ⊔ C).relrank B :=
+    relrank_sup_left_le <| h1.trans_lt h
+  _ ≤ A.relrank B := h1
+
+variable {A B} in
+theorem relfinrank_sup_sup_le (h : A.relfinrank B ≠ 0) :
+    (A ⊔ C).relfinrank (B ⊔ C) ≤ A.relfinrank B := by
+  rw [relfinrank_ne_zero_iff] at h
+  simp_rw [relfinrank_eq_toNat_relrank]
+  exact Cardinal.toNat_le_toNat (relrank_sup_sup_le C h) h
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean:334]:
```suggestion
theorem relfinrank_sup_sup_le (h : A.relfinrank B ≠ 0) :
    (A ⊔ C).relfinrank (B ⊔ C) ≤ A.relfinrank B :=
  have h := (relfinrank_ne_zero_iff _ _).mp h
  Cardinal.toNat_le_toNat (relrank_sup_sup_le C h) h
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 3]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
 theorem relfinrank_dvd_of_le_left (h : A ≤ B) : B.relfinrank C ∣ A.relfinrank C :=
   dvd_of_mul_left_eq _ (relfinrank_inf_mul_relfinrank_of_le C h)
 
+variable {A B} in
+theorem relrank_le_of_le_left (h : A ≤ B) : B.relrank C ≤ A.relrank C :=
+  Cardinal.le_of_dvd (relrank_pos A C).ne' (relrank_dvd_of_le_left C h)
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
  (Cardinal.le_mul_left (relrank_pos A (B ⊓ C)).ne').trans_eq (relrank_inf_mul_relrank_of_le C h)
```
We can do similar in the other one, and hence drop the `Cardinal.Divisibility` import

File: Mathlib/FieldTheory/Relrank.lean [hunk 4]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+variable {A B} in
+/-- If `A.relrank B` is finite, adjoining `C` to both sides does not increase relative rank.
+
+If finiteness doesn't hold, counterexamples can be found: take $A = ℚ$, $B = ℚ(t)$ and $C = ℝ$ as
+subfields of $ℝ(t)$, we have $[B ⊔ C : A ⊔ C] = [ℝ(t) : ℝ] = 𝔠 > ℵ₀ = [B : A]$
+-/
+theorem relrank_sup_sup_le (h : A.relrank B < ℵ₀) : (A ⊔ C).relrank (B ⊔ C) ≤ A.relrank B := by
+  have h1 : (A ⊓ B ⊔ C).relrank B ≤ A.relrank B := by
+    rw [← Subfield.inf_relrank_right A B]
+    exact relrank_le_of_le_left B le_sup_left
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
  have h1 : (A ⊓ B ⊔ C).relrank B ≤ A.relrank B :=
    (relrank_le_of_le_left B le_sup_left).trans_eq (inf_relrank_right A B)
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 5]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+  calc
+  _ ≤ ((A ⊓ B) ⊔ C).relrank (B ⊔ C) :=
+    relrank_le_of_le_left (B ⊔ C) <| sup_le_sup_right inf_le_left C
+  _ = ((A ⊓ B) ⊔ C).relrank ((A ⊓ B) ⊔ C ⊔ B) := by
+    rw [sup_assoc, sup_comm C B, ← sup_assoc, sup_eq_right.mpr (inf_le_right : A ⊓ B ≤ B)]
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
    rw [sup_right_comm, sup_eq_right.mpr (inf_le_right : A ⊓ B ≤ B)]
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 6]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+  _ ≤ ((A ⊓ B) ⊔ C).relrank B :=
+    relrank_sup_left_le <| h1.trans_lt h
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
  _ ≤ ((A ⊓ B) ⊔ C).relrank B := relrank_sup_left_le (h1.trans_lt h)
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 7]
```diff
@@ -276,6 +283,62 @@ variable {A B} in
...
+theorem relfinrank_le_of_le_left (hAB : A ≤ B) (hAC : A.relfinrank C ≠ 0) :
+    B.relfinrank C ≤ A.relfinrank C :=
+  Nat.le_of_dvd hAC.pos (relfinrank_dvd_of_le_left C hAB)
+
+variable {A B} in
+theorem relrank_sup_left_le (h : A.relrank B < ℵ₀) : A.relrank (A ⊔ B) ≤ A.relrank B := by
+  have hAinfB : A ⊓ B ≤ B := inf_le_right
+  have : Module.Finite ↥(A ⊓ B) (extendScalars hAinfB) := Module.rank_lt_aleph0_iff.mp h
+  let : Algebra ↥(A ⊓ B) A := (inclusion (inf_le_left : A ⊓ B ≤ A)).toAlgebra
+  have : IsScalarTower ↥(A ⊓ B) A E := IsScalarTower.of_algebraMap_eq (fun _ ↦ rfl)
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
  have : IsScalarTower ↥(A ⊓ B) A E := IsScalarTower.of_algebraMap_eq' rfl
```

File: Mathlib/FieldTheory/Relrank.lean [hunk 8]
```diff
@@ -297,6 +360,11 @@ noncomputable def relfinrank := A.toSubfield.relfinrank B.toSubfield
 
 theorem relfinrank_eq_toNat_relrank : relfinrank A B = toNat (relrank A B) := rfl
 
+theorem relrank_pos : 0 < relrank A B := rank_pos
+
+theorem relfinrank_ne_zero_iff : relfinrank A B ≠ 0 ↔ relrank A B < ℵ₀ := by
+  simp [relfinrank_eq_toNat_relrank, (relrank_pos A B).ne']
```
Comment (sharky564) [inline Mathlib/FieldTheory/Relrank.lean]:
```suggestion
theorem relfinrank_ne_zero_iff : relfinrank A B ≠ 0 ↔ relrank A B < ℵ₀ :=
  Subfield.relfinrank_ne_zero_iff _ _
```
